*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-G511  
*  
* Parameters derived from information available in data sheet.  
*  
*                 cathode-e-1
*                 |  cathode-d-1
*                 |  |  cathode-c-1
*                 |  |  |  cathode-DP-1
*                 |  |  |  |  cathode-e-2
*                 |  |  |  |  |  cathode-d-2
*                 |  |  |  |  |  |  cathode-g-2
*                 |  |  |  |  |  |  |  cathode-c-2
*                 |  |  |  |  |  |  |  |  cathode-DP-2
*                 |  |  |  |  |  |  |  |  |  cathode-b-2
*                 |  |  |  |  |  |  |  |  |  |  cathode-a-2
*                 |  |  |  |  |  |  |  |  |  |  |  cathode-f-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-b-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-a-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-g-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-f-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_G511 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  14  16  dHDSP_G511
DB1  14  15  dHDSP_G511
DC1  14   3  dHDSP_G511
DD1  14   2  dHDSP_G511
DE1  14   1  dHDSP_G511
DF1  14  18  dHDSP_G511
DG1  14  17  dHDSP_G511
DDP1 14   4  dHDSP_G511

DA2  13  11  dHDSP_G511
DB2  13  10  dHDSP_G511
DC2  13   8  dHDSP_G511
DD2  13   6  dHDSP_G511
DE2  13   5  dHDSP_G511
DF2  13  12  dHDSP_G511
DG2  13   7  dHDSP_G511
DDP2 13   9  dHDSP_G511

.MODEL dHDSP_G511 D
+ (  
+     IS = 1.61114016E-27 
+      N = 1.30291189 
+     RS = 12.83456794 
+     BV = 50 
+    IBV = 100u 
+ )  

.ENDS HDSP_G511